Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Zocor
 
Attending: ___.
 
Chief Complaint:
L leg swelling and pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o M with PMHx of metastatic melanoma s/p resection of
abdominal mass, axillary LN dissection, resection of R frontal
mass with Nsurg, on immunotherapy - most recently nivolumab 
(C8D1
___, Afib not on AC, PUD with prior GI bleed x2 (___), PE
s/p IVC filter ___, gastric bypass ___, hypothyroidism,
adrenal insufficiency who presents from US appointment with new
LLE DVT. 

Pt states he has been noticing swelling, and increased pain in
the LLE for the past week. No numbness/tingling. Eventually
scheduled US appt and was told to go immediately to an ED after
they found the DVT on exam. Has been feeling weak for the past
few weeks as well and felt unsteady earlier today. 

In the ED,
- Initial vitals:  T97.2, HR 85, BP 154/100, RR 16, O2 sat 98% 
RA

- Exam notable for:  
Ext: LLE slightly larger compared to R, slight calf tenderness 
in
both legs, slight TTP in L thigh, L foot more edematous compared
to R, DP pulse intact b/l, LLE also with bandage, skin 
underneath
erythematous and edematous
Neuro: sensation intact in ___ b/l, no focal neuro deficits
appreciated
- Labs notable for: WBC 10.7 with 79% PMNs, Hgb 12, MCV 103
- Imaging notable for:  
___ US
IMPRESSION:
Deep venous thrombosis involving the distal left femoral vein 
and
extending into the left common femoral vein. There is no 
evidence
of thrombus in the right common femoral vein. The patient has an
IVC filter.

- Pt was given:  
___ IV CeFAZolin 1 g
___ PO Omeprazole 20 mg B
___ PO/NG Dexamethasone 2 mg 
___ PO/NG Levothyroxine Sodium 75 mcg  
___ PO/NG Digoxin .125 mg  
___ PO/NG Codeine Sulfate 15 mg 
___ PO/NG Torsemide 10 mg 
___ IV CeFAZolin 1 g  
___ PO/NG Codeine Sulfate 15 mg 
___ PO/NG Rivaroxaban 15 mg 

- Vitals prior to transfer: T 99.1, HR 84, BP 135/80, RR 16, O2
sat 99% RA.

Upon arrival to the floor, the patient shares that he has been
feeling weak and sustained a fall a couple weeks ago, and has
been sitting and sleeping on the couch most of the time since
then. He also recalls feeling lightheaded when getting up once 
in
the past week. He confirms that he first notice left leg 
swelling
one week ago. He recalls taking an anticoagulation pill in the
past that was not warfarin (cannot remember name), but stopped
after having GI bleeds a few years ago. He has not had any 
recent
bloody or dark stools. Denies fever/chills, N/V, CP, SOB,
pleuritic chest pain, pain with deep breathing. No dysuria or
current GI complaints. 
 

 
Past Medical History:
ONCOLOGIC HISTORY:
Mr. ___ noted a "blood blister" on his abdomen many years 
ago
which resolved on its own.  Then, approximately a year prior to
presentation, this started to grow again and bled occasionally.
He was referred by his PCP to dermatology where he saw ___, NP, on ___ with a 2 x 2
centimeter inflamed plaque with a central ulcer on the right
abdomen noted.  Biopsy revealed nodular melanoma, present at
peripheral and deep margins, at least 7.5 mm deep, at least
___ level 4, ulcerated, 29 mitoses per millimeter squared,
absent lymphovascular and perineural invasion on the original
pathology though the specimen was reviewed in our cutaneous
oncology conference and felt to show lymphovascular invasion. 
The patient was referred here for further management.  He went 
on
to have a wide local excision and sentinel lymph node biopsy on
___.  This showed residual melanoma to 11 mm depth, 
2
of 6 recovered lymph nodes with micrometastases.

Initial staging scans on ___ revealed metastatic disease 
in
the left arm, right peritoneum, right adrenal, and left
infrahilar lymph node consistent with metastatic disease.  Brain
MRI showed no CNS metastases.  He underwent FNA of the left arm
nodule on ___ by Dr. ___ melanoma. 

Admitted to ___ with worsening SOB on ___, found 
to
have a PE, put on anticoagulation but developed abdominal wall
hematoma so, IVC filter placed. He has a history of developing 
GI
bleed while on anticoagulation in the past for atrial
fibrillation.

Was initially considered for Clinical Trial but could not be
enrolled due to elevated LFTs ( likely in the setting of acute
heavy alcohol use). 

Pembrolizumab 2 mg/kg every 3 weeks started on ___. 
Progression seen on scans on ___, therefore treatment
transitioned to ipi/nivo.

He completed 4 cycles Ipi/Nivo with good response and was
transitioned to nivolumab monotherapy. He was subsequently
hospitalized with adrenal failure and was found to have
metastatic disease to the brain. 

Neurosurgery was completed ___. Subsequent imaging revealed
ongoing abnormalities in the resection base so received CK
radiation to the site from ___.
  
PAST MEDICAL HISTORY:  
Gastric bypass
Shoulder arthritis, rotator cuff injury awaiting surgery
atrial fibrillation
diabetes
alcohol abuse
fatty liver
hypertension
osteoarthritis of the knee
radial nerve palsy
sleep apnea
GI bleed from PUD while on anticoagulation for afib
 
Social History:
___
Family History:
His brother had skin cancer though he does not think it was 
melanoma.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: ___ 1655 Temp: 98.1 PO BP: 139/91 HR: 72 RR: 18 O2 sat:
97% O2 delivery: Ra 
GENERAL: Obese man lying in bed in NAD  
HEENT: AT/NC, Sclerae anicteric, MMM, poor dentition.
CV: Irregularly irregular rate and rhythm. No murmurs, rubs, or
gallops.
PULM: CTAB, no wheezes, rales, rhonchi.
ABD: Abdomen soft, obese, nontender to palpation, no
rebound/guarding, no hepatosplenomegaly, well-healed scar.
EXT: WWP, no cyanosis, 2+ LLE, 1+ RLE
SKIN: Warm and well perfused, numerous scatter ecchymoses over
bilateral upper extremities, mild diffuse poorly circumscribed
erythema over anterior left lower leg with scant amount of clear
fluid expressed from a 7mm thin papule
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric  
ACCESS: port

DISCHARGE PHYSICAL EXAM:
VS: ___ 1500 Temp: 98.9 PO BP: 133/96 HR: 90 RR: 18 O2 sat: 
95% O2 delivery: RA 
GENERAL: Obese man lying in bed in NAD  
HEENT: AT/NC, Sclerae anicteric, MMM, poor dentition.
CV: Irregularly irregular rate and rhythm. No murmurs, rubs, or 
gallops.
PULM: CTAB, no wheezes, rales, rhonchi.
ABD: Abdomen soft, obese, nontender to palpation, no 
rebound/guarding, no hepatosplenomegaly, well-healed scar.
EXT: WWP, no cyanosis, 2+ LLE, 1+ RLE
SKIN: Warm and well perfused, numerous scatter ecchymoses over 
bilateral upper extremities, mild diffuse poorly circumscribed 
erythema over anterior left lower leg
NEURO: Alert, moving all 4 extremities with purpose, face 
symmetric  
ACCESS: port
 
Pertinent Results:
ADMISSION LABS
___ 07:56PM BLOOD WBC-10.7* RBC-3.40* Hgb-12.0* Hct-35.0* 
MCV-103* MCH-35.3* MCHC-34.3 RDW-14.7 RDWSD-55.1* Plt ___
___ 07:56PM BLOOD Neuts-79.1* Lymphs-7.6* Monos-7.7 
Eos-0.0* Baso-0.8 NRBC-0.2* Im ___ AbsNeut-8.48* 
AbsLymp-0.82* AbsMono-0.83* AbsEos-0.00* AbsBaso-0.09*
___ 07:56PM BLOOD ___ PTT-24.4* ___
___ 07:56PM BLOOD Glucose-121* UreaN-11 Creat-0.5 Na-135 
K-3.7 Cl-93* HCO3-29 AnGap-13
___ 10:29AM URINE Blood-SM* Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 10:29AM URINE RBC-6* WBC-2 Bacteri-FEW* Yeast-NONE 
Epi-<1
___ 10:29AM URINE CastHy-1*

DISCHARGE LABS
___ 05:02AM BLOOD WBC-8.7 RBC-3.42* Hgb-12.2* Hct-35.9* 
MCV-105* MCH-35.7* MCHC-34.0 RDW-15.0 RDWSD-57.4* Plt ___
___ 05:02AM BLOOD Neuts-77.0* Lymphs-10.0* Monos-8.0 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-6.69* AbsLymp-0.87* 
AbsMono-0.70 AbsEos-0.01* AbsBaso-0.03
___ 05:02AM BLOOD ___ PTT-28.7 ___
___ 05:02AM BLOOD Glucose-97 UreaN-10 Creat-0.5 Na-140 
K-3.2* Cl-94* HCO3-32 AnGap-14
___ 05:02AM BLOOD Albumin-2.9* Calcium-8.3* Phos-3.4 Mg-1.7
___ 05:02AM BLOOD ALT-12 AST-37 LD(LDH)-491* AlkPhos-163* 
TotBili-0.6

MICRO
___ UCx and BCx x2 pending

IMAGING
___ ___
Focal DVT of the proximal left femoral vein measuring up to 2.3 
cm.  No other evidence of DVT in the left lower extremity veins.

 
Brief Hospital Course:
PATIENT SUMMARY
=================
Mr. ___ is a ___ man with metastatic melanoma on nivolumab 
monotherapy, atrial fibrillation not on anticoagulation, history 
of GI bleed x2 (___) and PE s/p IVC filter (___), now 
presenting with new LLE DVT.

ACTIVE ISSUES
================
#DVT
Presented with 1 week of LLE pain and swelling in the setting of 
limited mobility (pt reports recent fall, feeling weak, and 
having occasional lightheadedness when standing). Found to have 
DVT of proximal L femoral vein on Doppler ultrasound. History 
notable for PE in ___ s/p IVC filter placement. He reports 
being on a DOAC in the past, presumably for afib, which was 
discontinued in setting of 2 GI bleeds in ___. Rivaroxaban 
started in the ED on ___, transitioned to apixaban on ___ do 
to preferable bleeding risk profile. H/H stable after initiation 
of anticoagulation. 

#Concern for cellulitis
Received IV cefazolin 1g x2 in the ED for presumed cellulitis of 
LLE. Exam notable for mild erythema and ulceration of LLE with 
clear discharge, pain, and swelling which could be related to 
DVT but will continue empiric non-purulent cellulitis treatment 
for now with plan for Cephalexin 500mg QID to complete a 10 day 
course (end date ___. 

#Weakness
Pt reports weakness a fall ~2 weeks ago while on treadmill. He 
was referred for physical therapy as an outpatient at home. 

#Melanoma
Pt has stage IV BRAF WT melanoma s/p resection of abdominal mass 
and axillary LN dissection, resection of R frontal brain mass, 
progression of disease on Pembrolizumab then ipi/nivo, now with 
mixed response on nivolumab monotherapy (C8D1 ___.

#Afib
Continued home digoxin 0.125mg QD.

#Alcohol use disorder
#Cirrhosis
History of cirrhosis likely ___ alcohol use. LFTs wnl except for 
elevated alk phos and LDH. Did not score on CIWA or require 
Ativan.

CHRONIC ISSUES
================
#Adrenal insufficiency
Likely ___ immune checkpoint inhibitor therapy. Continued home 
hydrocortisone 20mg QAM, 10mg QHS.

#Hypothyroidism
Continued home levothyroxine 75mcg QD.

#HTN
Pt reports that HTN improved after gastric bypass, currently not 
on home meds. BP 110s-130s/70s-90s this admission.

#Diabetes
Pt reports that blood sugars improved after gastric bypass, 
currently not on home meds. Morning glucose 140s-150s this 
admission.

#Other home medications
Continued home omeprazole, multivitamins, iron.

TRANSITIONAL ISSUES
====================
[] F/u resolution of DVT on apixaban. Could consider 
transitioning to lovenox, deferred this admission given 
significantly higher co-pay.
[] F/u H/H, melena/hematochezia in 2 weeks on apixaban. 
[] F/u blood glucose, consider checking A1c.
[] F/u weakness, falls. Arrangements made for home ___.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Colchicine 0.6 mg PO DAILY:PRN gout flare 
2. Digoxin 0.125 mg PO DAILY 
3. Hydrocortisone 10 mg PO QHS 
4. Hydrocortisone 20 mg PO QAM 
5. Levothyroxine Sodium 75 mcg PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. Cyanocobalamin 100 mcg PO DAILY 
8. Ferrous Sulfate 325 mg PO DAILY 
9. Multivitamins W/minerals 1 TAB PO DAILY 

 
Discharge Medications:
1.  Apixaban 10 mg PO BID Duration: 7 Days  
2.  Cephalexin 500 mg PO QID 
RX *cephalexin 500 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*34 Capsule Refills:*0 
3.  Colchicine 0.6 mg PO DAILY:PRN gout flare  
4.  Cyanocobalamin 100 mcg PO DAILY  
5.  Digoxin 0.125 mg PO DAILY  
6.  Ferrous Sulfate 325 mg PO DAILY  
7.  Hydrocortisone 10 mg PO QHS  
8.  Hydrocortisone 20 mg PO QAM  
9.  Levothyroxine Sodium 75 mcg PO DAILY  
10.  Multivitamins W/minerals 1 TAB PO DAILY  
11.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
========
Deep vein thrombosis
Skin and soft tissue infection 

SECONDARY: 
==========
METASTATIC MELANOMA 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,
 
It was a pleasure caring for you at ___ 
___.  
 
WHY WAS I IN THE HOSPITAL?  
 - You were admitted for treatment of a blood clot in your leg, 
known as a deep vein thrombosis (DVT) and a skin infection.
 
WHAT HAPPENED TO ME IN THE HOSPITAL?  
 - You were started on a medication to thin your blood to treat 
your DVT
 - You were given antibiotics to treat a possible skin 
infection. 
 
WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
 - Continue to take all your medicines and keep your 
appointments.  
 - Please call your oncologist or return to the emergency 
department if you experience any of the danger signs listed 
below. 
 
We wish you the best!  
 
Sincerely,  
Your ___ Team  

 
Followup Instructions:
___